US04375536
4-[4-[(Trimethylsilyl)ethynyl]phenoxy]benzil
4-(4-Bromophenoxy)benzil (3.81 g, 0.01 mole), trimethylsilylacetylene (1.96 g, 0.02 mole), and dichlorobis(triphenylphosphine)palladium (0.30 g) in triethylamine (20 ml) were placed under a nitrogen atmosphere in a sealed flask and heated at 66°-68° C. for four hours. The cooled brown reaction mixture was poured into cold dilute hydrochloric acid to yield a brown oil which was extracted with methylene chloride. The methylene chloride solution was washed with dilute aqueous hydrochloric acid and water, dried over magnesium sulfate, and concentrated on a rotary evaporator to yield a brown gum (4.0 g). The gum was extracted with boiling cyclohexane (100 ml) (small amount remained insoluble) and the solution treated with charcoal, filtered, and concentrated to yield 4-[(4-[trimethylsilyl)ethynyl]phenoxy]benzil as an orange gum (3.4 g, 85% yield). MS, no M+, major fragment m/e 293 [+CO--C6H4 --O--C6H4 --C≡C--Si(CH3)3 ].

reactant | 4-(4-Bromophenoxy)benzil | 0.01 mole, 3.81 g | BrC1=CC=C(OC2=CC=C(C=C2)C(=O)C(=O)C2=CC=CC=C2)C=C1 | C20H13BrO3
reactant | trimethylsilylacetylene | 0.02 mole, 1.96 g | C[Si](C)(C)C#C | C5H10Si
reactant | hydrochloric acid | Cl | ClH
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
catalyst | dichlorobis(triphenylphosphine)palladium | 0.30 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-[4-[(Trimethylsilyl)ethynyl]phenoxy]benzil | 4.0 g | C[Si](C)(C)C#CC1=CC=C(OC2=CC=C(C=C2)C(=O)C(=O)C2=CC=CC=C2)C=C1 | C25H22O3Si
